US06998495B2
To (S)-6-benzoyloxy-3-oxo-5-hydroxyhexanoic acid tert-butylester (161 mg, 0.50 mmol) and RuBr2(S)-BINAP (4.4 mg, 0.0050 mmol) (BINAP was 2,2′-bisdiphenylphosphino-1,1′-binaphthyl), 2 mL of a methanol-water (10/1) solution was added to completely dissolve the (S)-6-benzoyloxy-3-oxo-5-hydroxyhexanoic acid tert-butylester and RuBr2(S)-BINAP in an argon atmosphere. Hydrogen replacement at −78° C. was performed three times. After the temperature of the resulting mixture had increased to 50° C., the mixture was allowed to react for twenty hours under a hydrogen pressure of 5.0 kg/cm2. After extraction of hydrogen, the mixture was condensed and purified by silica gel column chromatography. As a result, 133.4 mg (82%) of (3S, 5S)-6-benzoyloxy-3,5-dihydroxyhexanoic acid tert-butylester was obtained. The diastereomer ratio determined by high performance liquid chromatography (HPLC) analysis was (3R, 5S):(3S, 5S)=10.4/89.6.

reactant | (S)-6-benzoyloxy-3-oxo-5-hydroxyhexanoic acid tert-butylester | 0.50 mmol, 161 mg | C(C)(C)(C)OC(CC(C[C@@H](COC(C1=CC=CC=C1)=O)O)=O)=O | C17H22O6
reactant | Hydrogen | [H][H] | H2
solvent | methanol water | 2 mL | CO.O
product | (3S, 5S)-6-benzoyloxy-3,5-dihydroxyhexanoic acid tert-butylester | 133.4 mg, 82% | C(C)(C)(C)OC(C[C@H](C[C@@H](COC(C1=CC=CC=C1)=O)O)O)=O | C17H24O6
